US05539061
1,3-Bis(2-t-butylperoxy-2-propyl)benzene (meta I) was prepared by reacting 29.7 grams (0.231 mole) of aqueous 70% t-butyl hydroperoxide with 20.4 grams (0.105 mole) of 1,3-bis(2-hydroxy-2-propyl)benzene in the presence of 26.8 grams (0.21 mole) of 77% sulfuric acid according to the procedure of Example I. The stripped product weighed 32.6 grams. It crystallized upon cooling and had a melting point of 45°-52° C. This example is for comparative purposes and does not fall under the specifications of this invention. The peroxide assay was 97% of theoretical.

reactant | t-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | 1,3-bis(2-hydroxy-2-propyl)benzene | 0.105 mole, 20.4 grams | OC(C)(C)C1=CC(=CC=C1)C(C)(C)O | C12H18O2
reactant | sulfuric acid | 0.21 mole, 26.8 grams | S(O)(O)(=O)=O | H2O4S
product | 1,3-Bis(2-t-butylperoxy-2-propyl)benzene | C(C)(C)(C)OOC(C)(C)C1=CC(=CC=C1)C(C)(C)OOC(C)(C)C | C20H34O4
